US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Methyl iodide (1.4 ml) and sodium bicarbonate (630 mg) were added to a solution of 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (832 mg) in methanol (20 ml), the mixture was refluxed for 2 days. The reaction mixture was concentrated under reduced pressure, Water (30 ml) was added to the residue and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous sodiun sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=50:1), to thereby obtain 585 mg of the title compound (Yield: 66.9%) as brown amorphous.

reactant | Methyl iodide | 1.4 ml | CI | CH3I
reactant | sodium bicarbonate | 630 mg | C([O-])(O)=O.[Na+]
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 832 mg | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
solvent | methanol | 20 ml | CO | CH4O
product | 2-oxo-3-tert-butoxycarbonylamino-5-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 585 mg, Yield: 66.9% | O=C1C(CN(C2=C(N1)C=CC=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
